US05457134
Synthesis of 3,4,4-trifluoro-3-butenethioic acid, S-octyl ester (Compound 121)
A mixture of 3,4,4-trifluoro-3-butenoyl chloride (1.7 g, 0.0107 mole) and 1-octanethiol (0.72 g, 0.0049 mole) is heated at 70° C. for 12 h. The crude product is purified by passing through a short column of silica gel to give 1.2 g of the desired product as a pale yellow oil, a 91% yield.

reactant | 3,4,4-trifluoro-3-butenoyl chloride | 0.0107 mole, 1.7 g | FC(CC(=O)Cl)=C(F)F | C4H2ClF3O
reactant | 1-octanethiol | 0.0049 mole, 0.72 g | C(CCCCCCC)S | C8H18S
product | 3,4,4-trifluoro-3-butenethioic acid, S-octyl ester | 1.2 g, 91% yield | FC(CC(SCCCCCCCC)=O)=C(F)F | C12H19F3OS
